US06828320B2
7-(5-Methyl-[1,3,4]oxadiazol-2-yl)quinazolin-4-one
4-Hydroxy quinazoline-7-hydrazide (0.41 g) was treated with triethyl orthoacetate (10 ml) at reflux under nitrogen for 24 hours. The mixture was cooled, filtered and purified by chromatography to give the title compound (0.09 g); m/z (M+1+) 229.

reactant | 4-Hydroxy quinazoline-7-hydrazide | 0.41 g | OC1=NC=NC2=CC(=CC=C12)C(=O)NN | C9H8N4O2
reactant | triethyl orthoacetate | 10 ml | C(C)(OCC)(OCC)OCC | C8H18O3
product | 7-(5-Methyl-[1,3,4]oxadiazol-2-yl)quinazolin-4-one | 0.09 g | CC1=NN=C(O1)C1=CC=C2C(NC=NC2=C1)=O | C11H8N4O2
